Test Harness  for vsdcell_nand2_1x
.include 'sky130nm.lib' 
.include 'custom_stdcell/nand2_1x/vsdcell_nand2_1x.spice'
                    X1 A B VGND Y VPWR vsdcell_nand2_1x
                    * Power Supplies
                    VVPWR VPWR 0 DC 1.8
VVGND VGND 0 DC 0
                    * Signal Supplies
                    VB B 0 PULSE(0 1.8 0 0.01n 0.01n 50ns 100ns)
VA A 0 DC 1.8
                    * CLoad 
                    CLoad Y 0 1f
                    * Control Generations
                    .control
                    foreach case 1.8 0

                if $case=0
                    * Fall Condition
                    reset
                    alter @VB[PWL] = [ 0 1.8 1.25n 0.9 2.5n 0 ]
                    tran 0.01n 2.5n
                    run
                    let fall_caps = abs(avg(vB#branch))*2.5n/(1.8)
                    let fall_cap = fall_caps[length(fall_caps)-1]/1p
                    echo "B:fall_capacitance:$&fall_cap" >> custom_stdcell/nand2_1x/data/input_caps/input_pins_caps.txt
                else
                    * Rise Condition
                    reset
                    alter @VB[PWL] = [ 0ns 0 1.25ns 0.9 2.5ns 1.8 ]
                    tran 0.01n 2.5n
                    run
                    let rise_caps = abs(avg(vB#branch))*2.5n/(1.8)
                    let rise_cap = rise_caps[length(rise_caps)-1]/1p
                    echo "B:rise_capacitance:$&rise_cap" >> custom_stdcell/nand2_1x/data/input_caps/input_pins_caps.txt 
                end
            end
                    rusage
                    quit
                    .endc